### PR TITLE
[Merged by Bors] - feat(Algebra/Homology/DerivedCategory/Ext/ExtClass): `extClass` is natural

### PR DESCRIPTION
**Pull request by smorel394**
Prove that `extClass` is compatible with morphisms of short exact sequences.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean [hunk 1]
```diff
@@ -69,4 +69,29 @@ lemma triangleOfSES_distinguished :
...
+
+lemma triangleOfSES.map_hom₁ : (triangleOfSES.map h₁ h₂ f).hom₁ = Q.map f.τ₁ := by
+  dsimp [triangleOfSES.map, triangleOfSESIso]; simp
+
+lemma triangleOfSES.map_hom₂ : (triangleOfSES.map h₁ h₂ f).hom₂ = Q.map f.τ₂ := by
+  dsimp [triangleOfSES.map, triangleOfSESIso]; simp
+
+lemma triangleOfSES.map_hom₃ : (triangleOfSES.map h₁ h₂ f).hom₃ = Q.map f.τ₃ := by
+  dsimp [triangleOfSES.map, triangleOfSESIso]
+  rw [IsIso.inv_comp_eq, ← Q.map_comp, CochainComplex.mappingCone.map_descShortComplex, Q.map_comp]
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/ShortExact.lean]: I may prefer this as the automatically generated lemmas `map_hom₁/...` become definitional equalities:
```suggestion
set_option backward.isDefEq.respectTransparency false in
/--
The morphism `triangleOfSES h₁ ⟶ triangleOfSES h₂` that is induced by a morphism of short
exact sequences of cochain complexes.
-/
@[simps]
noncomputable def triangleOfSES.map : triangleOfSES h₁ ⟶ triangleOfSES h₂ where
  hom₁ := Q.map f.τ₁
  hom₂ := Q.map f.τ₂
  hom₃ := Q.map f.τ₃
  comm₁ := by simp [← Functor.map_comp, f.comm₁₂]
  comm₂ := by simp [← Functor.map_comp, f.comm₂₃]
  comm₃ := by
    dsimp [triangleOfSES, triangleOfSESδ]
    rw [assoc, assoc, IsIso.inv_comp_eq, ← Functor.map_comp_assoc,
      ← CochainComplex.mappingCone.map_descShortComplex,
      Functor.map_comp_assoc, IsIso.hom_inv_id_assoc,
      ← Functor.commShiftIso_hom_naturality,
      ← Functor.map_comp_assoc, ← Functor.map_comp_assoc]
    congr 2
    exact (CochainComplex.mappingCone.triangleMap S₁.f S₂.f f.τ₁ f.τ₂ f.comm₁₂.symm).comm₃
```

File: Mathlib/Algebra/Homology/HomotopyCategory/ShortExact.lean [hunk 2]
```diff
@@ -65,6 +65,25 @@ lemma inl_v_descShortComplex_f (i j : ℤ) (h : i + (-1) = j) :
...
+  ext i
+  rw [mappingCone.ext_from_iff _ _ _ rfl]
+  dsimp [map]
+  simp only [inl_v_desc_f_assoc, HomComplex.Cochain.zero_cochain_comp_v,
+    HomComplex.Cochain.ofHom_v, assoc, inl_v_descShortComplex_f, comp_zero,
+    inl_v_descShortComplex_f_assoc, zero_comp, inr_f_desc_f_assoc, HomologicalComplex.comp_f,
+    inr_f_descShortComplex_f, inr_f_descShortComplex_f_assoc, true_and]
+  have := f.comm₂₃
+  apply_fun (fun x ↦ x.f i) at this
+  exact this
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/HomotopyCategory/ShortExact.lean]:
```suggestion
  simpa [mappingCone.ext_from_iff _ _ _ rfl, map] using
    congr_fun (congr_arg HomologicalComplex.Hom.f f.comm₂₃) i
```

File: Mathlib/Algebra/Homology/DerivedCategory/SingleTriangle.lean [hunk 3]
```diff
@@ -78,6 +78,48 @@ lemma singleTriangle_distinguished :
   isomorphic_distinguished _ (triangleOfSES_distinguished (hS.map_of_exact
     (HomologicalComplex.single C (ComplexShape.up ℤ) 0))) _ (singleTriangleIso hS)
 
+variable {S₁ S₂ : ShortComplex C} (h₁ : S₁.ShortExact) (h₂ : S₂.ShortExact) (f : S₁ ⟶ S₂)
+
+/-- The morphism `h₁.singleTriangle h₁ ⟶ h₂.singleTriangle` that is induced by a
+map of short exact sequences of objects of `C`.
+-/
+noncomputable def singleTriangle.map : h₁.singleTriangle ⟶ h₂.singleTriangle :=
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/SingleTriangle.lean]: Could you do something like?
```lean
set_option backward.isDefEq.respectTransparency false in
/-- The morphism `h₁.singleTriangle h₁ ⟶ h₂.singleTriangle` that is induced by a
map of short exact sequences of objects of `C`.
-/
noncomputable def singleTriangle.map : h₁.singleTriangle ⟶ h₂.singleTriangle where
  hom₁ := (singleFunctor C 0).map f.τ₁
  hom₂ := (singleFunctor C 0).map f.τ₂
  hom₃ := (singleFunctor C 0).map f.τ₃
  comm₁ := by simp [← Functor.map_comp, f.comm₁₂]
  comm₂ := by simp [← Functor.map_comp, f.comm₂₃]
  comm₃ := by
    dsimp [singleδ]
    rw [assoc, assoc, ← Functor.map_comp, ← NatTrans.naturality, Functor.map_comp]
    erw [reassoc_of% ((triangleOfSES.map
      (h₁.map_of_exact _) (h₂.map_of_exact _))
      ((HomologicalComplex.single C (.up ℤ) 0).mapShortComplex.map f)).comm₃]
    simp
    rfl
```
The proof of `comm₃` should be cleaned up a bit because of the `erw`...

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/ExtClass.lean [hunk 4]
```diff
@@ -127,6 +127,15 @@ lemma extClass_comp_assoc {Y : C} {n : ℕ} (γ : Ext S.X₂ Y n) {n' : ℕ} {h
...
     extClass_comp, Ext.zero_comp]
 
+lemma extClass_naturality {S₁ S₂ : ShortComplex C} (h₁ : S₁.ShortExact) (h₂ : S₂.ShortExact)
+    (f : S₁ ⟶ S₂) : h₁.extClass.comp (Ext.mk₀ f.τ₁) rfl = (Ext.mk₀ f.τ₃).comp h₂.extClass rfl := by
+  letI := HasDerivedCategory.standard C
+  rw [Ext.ext_iff]
+  simp only [Nat.add_zero, Int.cast_ofNat_Int, Ext.comp_hom, extClass_hom, Ext.mk₀_hom,
+    ShiftedHom.comp_mk₀, Nat.reduceAdd, ShiftedHom.mk₀_comp, ← singleTriangle.map_hom₁ h₁ h₂,
+    ← singleTriangle.map_hom₃ h₁ h₂]
+  exact (singleTriangle.map h₁ h₂ f).comm₃
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/ExtClass.lean]:
```suggestion
lemma extClass_naturality {S₁ S₂ : ShortComplex C}
    (h₁ : S₁.ShortExact) (h₂ : S₂.ShortExact) (f : S₁ ⟶ S₂) :
    h₁.extClass.comp (Ext.mk₀ f.τ₁) (add_zero 1) =
      (Ext.mk₀ f.τ₃).comp h₂.extClass (zero_add 1) := by
  letI := HasDerivedCategory.standard C
  ext
  simpa [ShiftedHom.comp_mk₀, ShiftedHom.mk₀_comp] using (singleTriangle.map h₁ h₂ f).comm₃
```
Note the `add_zero 1` and `zero_add 1` in the statement which make it so that both LHS and RHS are elements in degree `1`. Otherwise, the LHS would be in degree `1 + 0` and the RHS in degree `0 + 1` (both are defeq to `1`, but it is advisable that the degrees match syntactically).

File: Mathlib/Algebra/Homology/DerivedCategory/SingleTriangle.lean (hunk 3 above)
Comment (smorel394) [reply Mathlib/Algebra/Homology/DerivedCategory/SingleTriangle.lean]: Applied suggestion, got rid of the `erw`.
